US08084485B2
A mixture of tert-butyl (1S,3S)-1-((2S,4S)-4-isopropyl-5-oxotetrahydrofuran-2-yl)-3-((1-(3-methoxypropyl)-1H-indazol-6-yl)methyl)-4-methylpentylcarbamate (120 mg, 0.25 mmol), Et3N (1.5 mL), 2-hydroxypyridine (71.3 mg, 0.75 mmol), and 3-amino-2,2-dimethylpropanamide (87 mg, 0.75 mmol) was stirred at 80° C. overnight. The mixture was evaporated and purified by flash chromatography on silica gel to give tert-butyl (3S,5S,6S,8S)-8-(3-amino-2,2-dimethyl-3-oxopropylcarbamoyl)-6-hydroxy-3-((1-(3-methoxypropyl)-1H-indazol-6-yl)methyl)-2,9-dimethyldecan-5-ylcarbamate (120 mg, 65%). MS: 646 (M++1)

reactant | tert-butyl (1S,3S)-1-((2S,4S)-4-isopropyl-5-oxotetrahydrofuran-2-yl)-3-((1-(3-methoxypropyl)-1H-indazol-6-yl)methyl)-4-methylpentylcarbamate | 0.25 mmol, 120 mg | C(C)(C)[C@@H]1C[C@H](OC1=O)[C@H](C[C@@H](C(C)C)CC1=CC=C2C=NN(C2=C1)CCCOC)NC(OC(C)(C)C)=O | C30H47N3O5
reactant | 2-hydroxypyridine | 0.75 mmol, 71.3 mg | OC1=NC=CC=C1 | C5H5NO
reactant | 3-amino-2,2-dimethylpropanamide | 0.75 mmol, 87 mg | NCC(C(=O)N)(C)C | C5H12N2O
solvent | Et3N | 1.5 mL | CCN(CC)CC | C6H15N
product | tert-butyl (3S,5S,6S,8S)-8-(3-amino-2,2-dimethyl-3-oxopropylcarbamoyl)-6-hydroxy-3-((1-(3-methoxypropyl)-1H-indazol-6-yl)methyl)-2,9-dimethyldecan-5-ylcarbamate | 120 mg, 65% | NC(C(CNC(=O)[C@@H](C[C@@H]([C@H](C[C@@H](C(C)C)CC1=CC=C2C=NN(C2=C1)CCCOC)NC(OC(C)(C)C)=O)O)C(C)C)(C)C)=O | C35H59N5O6
